US03997518
5-Amino-4-carbethoxy-2-phenylimidazole hydrochloride
Phenylformimino benzyl thioether hydrochloride (28.5gm) was refluxed in chloroform (200 ml) with ethyl aminocyanoacetate (17.0gm) for 1 hour. On standing for 8 hours the addition of dry diethyl ether (250 ml) caused the precipitation of the 5-amino-4-carbethoxy-2-phenylimidazole hydrochloride (24.5gm) m.p. 228° C after recrystallisation from ethanol.

reactant | Phenylformimino benzyl thioether hydrochloride | 28.5gm | Cl.C(C1=CC=CC=C1)SC(=N)C1=CC=CC=C1
reactant | ethyl aminocyanoacetate | 17.0gm | NC(C(=O)OCC)C#N | C5H8N2O2
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Amino-4-carbethoxy-2-phenylimidazole hydrochloride | Cl.NC1=C(N=C(N1)C1=CC=CC=C1)C(=O)OCC | InChI=1S/C12H13N3O2.ClH/c1-2-17-12(16)9-10(13)15-11(14-9)8-6-4-3-5-7-8;/h3-7H,2,13H2,1H3,(H,14,15);1H
